US04480114
90 ml of dimethylsulphoxides are added to 2.7 g (0.09 mol) of 80% strength sodium hydride and 19.8 g (0.09 mol) of trimethyloxosulphonium iodide in the course of 20 minutes. When the evolution of hydrogen has ended, a solution of 22 g (0.075 mol) of 2-chloro-4'-phenyl-benzophenone in 60 ml of dimethylsulphoxide is added dropwise and the mixture is subsequently stirred at 50° C. for 1 hour. 200 ml of water are added to the cooled reaction mixture and the mixture is extracted by shaking with ether. The ether solution is washed with water, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The residue is recrystallised from diisopropyl ether. 15 g (65% of theory) of 2-(4-biphenylyl)-2-(2-chlorophenyl)-oxirane of melting point 70° C. are obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethyloxosulphonium iodide | 0.09 mol, 19.8 g | [I-].C[S+](=O)(C)C
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-4'-phenyl-benzophenone | 0.075 mol, 22 g | ClC1=C(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC=C1 | C19H13ClO
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 2-(4-biphenylyl)-2-(2-chlorophenyl)-oxirane | 15 g, 65% | C1(=CC=C(C=C1)C1(OC1)C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C20H15ClO
